US04960946
A solution of lithium tri-sec-butylborohydride (267 mL of a 1 M solution in tetrahydrofuran, 0.27 mol) was added to a cooled (-65~C) solution of 3-(3-methoxy-3-methlybut-1-yl)-5-methylcyclohexan-1-one (48.6 g, 0.22 mol) dissolved in tetrahydrofuran (350 mL). The solution was stirred at 25~C for 16 hours and was quenched by addition of sodium hydroxide (10% aqueous, 165 mL) followed by hydrogen peroxide (30% aqueous, 170 mL). Workup yielded 3-(3-methoxy-3-methylbutyl)-5-methyl cyclohexan-1-ol as a mixture of diastereoisomers (ratio 90.1:7.2:2.7), bp0.75 120-122~C (40.7 g. This compound and mixtures of diastereomers possess strong, tenacious, sandalwoody, musky notes. NMR(CDC13)δ0.6 (q,1H), 0.9(d,3H), 1.0-1.1(m,2H), 1.1(s,6H),1.2-1.3 (m,2H), 1.4-1.6(m,2H), 1.6-1.9(m,5H), 2.2(brs,1H), 3.2(s,3H), 4.1(m,1H). IR(neat) 3400, 2975, 2925, 1460, 1385, 1365, 1210, 1090, 1015 cm-1 ; MS(m/e) 43, 73, 93, 111, 149, 167, 182, 199, 200.

reactant | lithium tri-sec-butylborohydride | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+]
reactant | 3-(3-methoxy-3-methlybut-1-yl)-5-methylcyclohexan-1-one | 0.22 mol, 48.6 g | COC(CCC1CC(CC(C1)C)=O)(C)C | C13H24O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 350 mL | O1CCCC1 | C4H8O
product | 3-(3-methoxy-3-methylbutyl)-5-methyl cyclohexan-1-ol | COC(CCC1CC(CC(C1)C)O)(C)C | C13H26O2
